US05994299
2-(1-Piperidyl)ethylisothiourea hydrochloride was prepared in the following way: A suspension of 100 g of N-(2-chloroethyl) piperidine hydrochloride and of 41.5 g of thiourea in 250 cm3 of dimethylformamide was heated at a temperature in the region of 110° C. for 2 hours. The mixture was cooled to a temperature in the region of 20° C. The white solid formed was subsequently filtered off, rinsed with a total of 100 cm3 of diethyl ether and dried under reduced pressure (10 kPa) at a temperature in the region of 40° C. to result in 134.1 g of 2-(1-piperidyl)-ethylisothiourea hydrochloride in the form of a white solid that melted at a temperature in the region of 240° C.

reactant | N-(2-chloroethyl) piperidine hydrochloride | 100 g | Cl.ClCCN1CCCCC1
reactant | thiourea | 41.5 g | NC(=S)N | CH4N2S
solvent | dimethylformamide | 250 cm3 | CN(C=O)C | C3H7NO
product | 2-(1-Piperidyl)ethylisothiourea hydrochloride | Cl.N1(CCCCC1)CCNC(S)=N | InChI=1S/C8H17N3S.ClH/c9-8(12)10-4-7-11-5-2-1-3-6-11;/h1-7H2,(H3,9,10,12);1H
